US04061647
3-Allyl-2-allylimino-(3,4-dimethyl-5-sulfamoylphenyl)-1,3-thiazolidine-4-ol-hydrobromide
was obtained in a manner analogous to the method described in Example 6 in amorphous form from 3.1 g of 2-bromo-3',4'-dimethyl-5'-sulfamoyl-acetophenone and 1.6 g of 1,3-diallyl-thiourea and the substance was brought to crystallization under ether. M.p. 138°-140° C (decomposition).

reactant | 2-bromo-3',4'-dimethyl-5'-sulfamoyl-acetophenone | 3.1 g | BrCC(=O)C1=CC(=C(C(=C1)S(N)(=O)=O)C)C | C10H12BrNO3S
reactant | 1,3-diallyl-thiourea | 1.6 g | C(C=C)NC(=S)NCC=C | C7H12N2S
product | 3-Allyl-2-allylimino-(3,4-dimethyl-5-sulfamoylphenyl)-1,3-thiazolidine-4-ol-hydrobromide | Br.C(C=C)N1C(SCC1(O)C1=CC(=C(C(=C1)S(N)(=O)=O)C)C)=NCC=C | InChI=1S/C17H23N3O3S2.BrH/c1-5-7-19-16-20(8-6-2)17(21,11-24-16)14-9-12(3)13(4)15(10-14)25(18,22)23;/h5-6,9-10,21H,1-2,7-8,11H2,3-4H3,(H2,18,22,23);1H
